US08076488B2
Preparation of 2-Methyl-6-aminobenzoxazole
This compound was prepared from 2-methyl-6-nitrobenzoxazole (2.0 g, 13.5 mmol) in the same manner described for 5-aminobenxo[b[thiophene 1,1-dioxide, affording 1.57 (94%) of the title compound as a brown solid. MS LC-MS (M+H)+=149.1, RT=0.77 min.

reactant | 2-methyl-6-nitrobenzoxazole | 13.5 mmol, 2.0 g | CC=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C8H6N2O3
reactant | thiophene 1,1-dioxide | S1(C=CC=C1)(=O)=O | C4H4O2S
product | 2-Methyl-6-aminobenzoxazole | CC=1OC2=C(N1)C=CC(=C2)N | C8H8N2O
